US05252601
N-[[1,2,3,4-Tetrahydro-2-(mercaptomethyl)-2-naphthalenyl]carbonyl]-isoserine
Dissolve N-[[1,2,3,4-tetrahydro-2-[(acetylthio)methyl]-2-naphthalenyl]carbonyl]-isoserine, benzyl ester (4.41 g, 10.0 mmol) in deoxygenated tetrahydrofuran (50 mL). To this solution add 1N LiOH (30 mL, 30.0 mmol) and stir under an atmosphere of argon for 4 hours. Concentrate the solution in vacuo then purify the residue by column chromatography (acetic acid:ethyl acetate:hexane) to give the title compound.

reactant | N-[[1,2,3,4-tetrahydro-2-[(acetylthio)methyl]-2-naphthalenyl]carbonyl]-isoserine, benzyl ester | 10.0 mmol, 4.41 g | C(C)(=O)SCC1(CC2=CC=CC=C2CC1)C(=O)NCC(O)C(=O)OCC1=CC=CC=C1 | C24H27NO5S
reactant | LiOH | 30.0 mmol, 1N, 30 mL | [Li+].[OH-]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | N-[[1,2,3,4-Tetrahydro-2-(mercaptomethyl)-2-naphthalenyl]carbonyl]-isoserine | SCC1(CC2=CC=CC=C2CC1)C(=O)NCC(O)C(=O)O | C15H19NO4S
